US04810699
A mixture of methyl 1-ethyl-1,3,4,9-tetrahydro-8-hydroxy-pyrano[3,4-b]indole-1-acetate (6 g, 20.8 mmol), 3-bromo-1-trimethylsilyl-1-propyne [4.8 g, 25 mmol, prepared according to R. B. Miller, Synth. Comm., 2, 267 (1972)] and 2.5N--NaOH (10 mL, 25 mmol) in DMSO (60 mL) was heated under nitrogen for 30 minutes at 120° C. Upon cooling, the micture was diluted with 2 volumes of water, acidified with 2N--KHSO4 solution and extracted with ether. The extracts were dried (Na2SO4) and concentrated in vacuo. The residual oil (7 g) was flash-chromatographed (silica Merck-60, chloroform) to provide methyl 1-ethyl-1,3,4,9-tetrahydro-8-[(2-propynyl)oxy]-pyrano[3,4-b]indole-1-acetate (5.6 g, 83%) as an oil.

reactant | methyl 1-ethyl-1,3,4,9-tetrahydro-8-hydroxy-pyrano[3,4-b]indole-1-acetate | 20.8 mmol, 6 g | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)O)CC(=O)OC | C16H19NO4
reactant | 3-bromo-1-trimethylsilyl-1-propyne | 25 mmol, 4.8 g | BrCC#C[Si](C)(C)C | C6H11BrSi
reactant | NaOH | 25 mmol, 10 mL | [OH-].[Na+]
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | methyl 1-ethyl-1,3,4,9-tetrahydro-8-[(2-propynyl)oxy]-pyrano[3,4-b]indole-1-acetate | 5.6 g, 83% | C(C)C1(OCCC2=C1NC1=C(C=CC=C21)OCC#C)CC(=O)OC | C19H21NO4
